US06313122B1
C. 2-[(4-tert-Butylbenzoyl)amino]-N-(4-methoxyphenyl)-6-fluorobenzamide
Using the procedure described in Example 93, Part A, N-(4-methoxyphenyl)-2-amino-6-fluorobenzamide (1.9 mmol) and 4-tert-butylbenzoyl chloride (2.1 mmol) yielded 530 mg (65%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-amino-6-fluorobenzamide | 1.9 mmol | COC1=CC=C(C=C1)NC(C1=C(C=CC=C1F)N)=O | C14H13FN2O2
reactant | 4-tert-butylbenzoyl chloride | 2.1 mmol | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 2-[(4-tert-Butylbenzoyl)amino]-N-(4-methoxyphenyl)-6-fluorobenzamide | 530 mg, 65% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C(=CC=C2)F)C=C1 | C25H25FN2O3
